US03940434
A solution of 15 g of 5-cyclohexyl-1-benzocyclobutenecarboxylic acid in 150 ml of absolute methanol and 1.5 ml of concentrated sulphuric acid is boiled for 14 hours under reflux whilst excluding water. The reaction mixture is evaporated in vacuo at 30°C to a volume of approx. 30 ml and the evaporation residue is partitioned between three times 200 ml of ether and twice 200 ml of ice water. The combined organic phases are successively washed with saturated sodium bicarbonate solution and water, dried over sodium sulphate and evaporated in vacuo. Distillation of the evaporation residue in a high vacuum yields 5-cyclohexyl-1-benzocyclobutenecarboxylic acid methyl ester in the fraction boiling at approx. 150°C/0.07 mm Hg.

reactant | 5-cyclohexyl-1-benzocyclobutenecarboxylic acid | 15 g | C1(CCCCC1)C=1C=CC2=C(C(=C2)C(=O)O)C1 | C15H16O2
reactant | water | O | H2O
reactant | methanol | 150 ml | CO | CH4O
solvent | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
product | 5-cyclohexyl-1-benzocyclobutenecarboxylic acid methyl ester | COC(=O)C1=CC2=C1C=C(C=C2)C2CCCCC2 | C16H18O2
